US06809092B2
7-hydroxy-1,3,4,5-tetrahydro-2H-2-benzazepin-1-one
To a solution of 6-hydroxy-1-tetralone (6.5 g) in methanesulfonic acid (140 ml) was added sodium azide (3.4 g) under cooling with ice and the mixture was stirred for 30 minutes at 0° C. and for 15 hours at room temperature. The reaction mixture was poured into ice-water and thereto was added potassium carbonate to alkalify and was extracted with methylene chloride. The organic layer was washed with water, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride successively, dried over anhydrous magnesium sulfate and was concentrated to give the title compound having the following physical data as a crude product. The crude product was used in the next reaction without further purification.

reactant | 6-hydroxy-1-tetralone | 6.5 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | sodium azide | 3.4 g | [N-]=[N+]=[N-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanesulfonic acid | 140 ml | CS(=O)(=O)O | CH4O3S
product | 7-hydroxy-1,3,4,5-tetrahydro-2H-2-benzazepin-1-one | OC=1C=CC2=C(CCCNC2=O)C1 | C10H11NO2
